USRE030887
A total of 0.68 mole of bis(2-bromoethyl) phosphite was reacted with excess carbon tetrachloride in the presence of a small amount of triethylamine. The bis(2-bromoethyl) phosphorochloridate thus formed was reacted with 0.31 mole of ethylene glycol in the presence of 0.68 mole of pyridine. The reaction product was washed with aqueous sulfuric acid, water, aqueous sodium bicarbonate, and again with water. The volatiles (chloroform and carbon tetrachloride) were removed by evaporation at reduced pressure to give a 100% yield of product identified by IR as tetrakis(2-bromoethyl) ethylene diphosphate. On analysis, the product was found to contain 49.83% bromine and 9.05% phosphorus (compared to calculated percentages in C10H20Br4O8P2 of 49.23% bromine and 9.54% phosphorus).

reactant | bis(2-bromoethyl) phosphite | 0.68 mole | P(OCCBr)(OCCBr)[O-]
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | bis(2-bromoethyl) phosphorochloridate | P(OCCBr)(OCCBr)(=O)Cl | C4H8Br2ClO3P
